US06548506B2
7-Fluoro-1-methyl-8-[4-[3-(methylsulphanylmethyl)phenyl]piperazin-1-yl]-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylic acid was prepared under the conditions of Example 1, but from 0.45 g of 7,8-difluoro-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylic acid and 0.66 g of [3-(methylsulphanylmethyl)phenyl]piperazine in 15 cm3 of dimethyl sulphoxide. After washing 2 times with 15 cm3 of ethanol, 0.61 g of 7-fluoro-1-methyl-8-[4-[3-(methylsulphanylmethyl)phenyl]piperazin-1-yl]-4-oxo-1,4-dihydrobenzo-[b][1,8]naphthyridine-3-carboxylic acid was obtained in the form of a yellow solid melting at about 240-5° C.

reactant | 7,8-difluoro-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylic acid | 0.45 g | FC1=CC=2C(=NC=3N(C=C(C(C3C2)=O)C(=O)O)C)C=C1F | C14H8F2N2O3
reactant | [3-(methylsulphanylmethyl)phenyl]piperazine | 0.66 g | CSCC=1C=C(C=CC1)N1CCNCC1 | C12H18N2S
solvent | dimethyl sulphoxide | 15 cm3 | CS(=O)C | C2H6OS
product | 7-fluoro-1-methyl-8-[4-[3-(methylsulphanylmethyl)phenyl]piperazin-1-yl]-4-oxo-1,4-dihydrobenzo-[b][1,8]naphthyridine-3-carboxylic acid | 0.61 g | FC1=CC=2C(=NC=3N(C=C(C(C3C2)=O)C(=O)O)C)C=C1N1CCN(CC1)C1=CC(=CC=C1)CSC | C26H25FN4O3S
